US07196102B2
Step 2) 4-Ethyl-3-(3-pyridyl)benzaldehyde:
To a mixture of 3-bromo-4-ethylbenzaldehyde (2.45 g, 0.0115 mol), pyridine 3-boronic acid (1.42 g, 0.0115 mol, Matrix Scientific), 2M Na2CO3 (15 mL) in 30 mL of toluene was added 1.33 g of Pd (PPh3)4 (1.15 mmol, Aldrich). The mixture was then heated to 80 C under N2 for 16 hours. The mixture was cooled to RT and was diluted with 100 mL of EtOAc and 40 mL of sat. NaHCO3 aq. solution. The organic phase was washed with 40 mL of brine, dried over Na2SO4 and concentrated in vacuo. The crude product was chromatographed (silica gel, 20% EtOAc in hexane) to provide yellow oil (1.2 g).

reactant | 3-bromo-4-ethylbenzaldehyde | 0.0115 mol, 2.45 g | BrC=1C=C(C=O)C=CC1CC | C9H9BrO
reactant | pyridine 3-boronic acid | 0.0115 mol, 1.42 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2M, 15 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd (PPh3)4 | 1.15 mmol, 1.33 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Ethyl-3-(3-pyridyl)benzaldehyde | 1.2 g | C(C)C1=C(C=C(C=O)C=C1)C=1C=NC=CC1 | C14H13NO
